US05439917
2,3-Dimethyl-7-(o-hydroxyphenacyl)pyrrolo[2,3-b]pyridine.
A solution of 2,3-dimethyl-7-(o-methoxyphenacyl) pyrrolo[2,3-b]pyridine (75 mg, 0.2 mmol) in 20 ml CH2Cl2 was cooled to 0° C. and treated with 1M BBr3 in CH2Cl2 (200 μl, 0.2 mmol). After reacting for an additional hour the reaction mixture was poured into a stirred solution of 5% NaHCO3. The aqueous layer was attracted with 50+10 ml CH2Cl2 and the combined organic layers washed With 50 ml 2M HCl (reextraction trice with 10 ml CH2Cl2). The combined organic layers were dried over MgSO4 and evaporated. The residue was chromatographed (silica, CH2Cl2 /MeOH; 9/1) affording 35 mg (62%) pure title compound.

reactant | 2,3-dimethyl-7-(o-methoxyphenacyl) pyrrolo[2,3-b]pyridine | 0.2 mmol, 75 mg | CC1=C(C=2C(N(C=CC2)CC(=O)C2=C(C=CC=C2)OC)=N1)C | C18H18N2O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.2 mmol, 200 μl | C(Cl)Cl | CH2Cl2
product | 2,3-Dimethyl-7-(o-hydroxyphenacyl)pyrrolo[2,3-b]pyridine | 35 mg, 62% | CC1=C(C=2C(N(C=CC2)CC(=O)C2=C(C=CC=C2)O)=N1)C | C17H16N2O2
